* D:\lab\Memristor model\LTspice\memristor_yakopcic_sim.asc
V1 N001 0 PULSE(-3.0 3.0 0 14 14 1p 28)
XU1 N001 0 NC_01 MEM_YAKOPCIC
.tran 0 56s 28
.lib memristor_yakopcic.sub
.backanno
.end
